US08980911B2
Synthesis of 2,6-dichloro-4-(methylcarbamoyl)benzoyl chloride
A mixture of 2,6-dichloro-4-(methylcarbamoyl)benzoic acid (400 mg, 1.6 mmol) and thionyl chloride (1.91 g, 16 mmol) in dichloromethane (10 mL) was stirred at 50° C. for 5 hours. The reaction mixture was concentrated under rotary evaporator and used as such for next step.

reactant | 2,6-dichloro-4-(methylcarbamoyl)benzoic acid | 1.6 mmol, 400 mg | ClC1=C(C(=O)O)C(=CC(=C1)C(NC)=O)Cl | C9H7Cl2NO3
reactant | thionyl chloride | 16 mmol, 1.91 g | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | 2,6-dichloro-4-(methylcarbamoyl)benzoyl chloride | ClC1=C(C(=O)Cl)C(=CC(=C1)C(NC)=O)Cl | C9H6Cl3NO2
